US04509537
1-(2-Isopropyl-5-methylphenoxycarbonyloxy)-2,2-dimethyl-3-propanol
The reaction of 2-isopropyl-5-methylphenyl chloroformate with 2,2-dimethyl-1,3-propanediol is conducted on a 0.01 mole scale employing the same conditions as described in Example I. A 1.3 g yield of the pure product is obtained as an oil.

reactant | 2-isopropyl-5-methylphenyl chloroformate | ClC(=O)OC1=C(C=CC(=C1)C)C(C)C | C11H13ClO2
reactant | 2,2-dimethyl-1,3-propanediol | CC(CO)(CO)C | C5H12O2
product | 1-(2-Isopropyl-5-methylphenoxycarbonyloxy)-2,2-dimethyl-3-propanol | C(C)(C)C1=C(OC(=O)OCC(CO)(C)C)C=C(C=C1)C | C16H24O4
